US04310526
2-trans-[2-(2-methyl-phenyl)-ethenyl]-3-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid (1,2 g) was reacted with thionyl chloride (0.6 ml) in dioxane (12 ml) at reflux temperature for 1 hour, then the mixture was evaporated to dryness in vacuo. The residue was reacted with excess methanol at 50° C. for 30 minutes, then the solution was concentrated in vacuo and the residue diluted with ice water. Filtration of the precipitate gave 1.2 g of 2-trans-[2-(2-methyl-phenyl)-ethenyl]-3-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine7-carboxylic acid, methyl ester, m.p. 190°-193° C. By proceeding analogously the following compounds were prepared:

reactant | 2-trans-[2-(2-methyl-phenyl)-ethenyl]-3-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid | 1,2 g | CC1=C(C=CC=C1)/C=C/C=1N=C2N(C(C1CCC)=O)C=C(C=C2)C(=O)O | C21H20N2O3
reactant | thionyl chloride | 0.6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 2-trans-[2-(2-methyl-phenyl)-ethenyl]-3-propyl-4-oxo-4H-pyrido[1,2-a]pyrimidine7-carboxylic acid, methyl ester | 1.2 g | CC1=C(C=CC=C1)/C=C/C=1N=C2N(C(C1CCC)=O)C=C(C=C2)C(=O)OC | C22H22N2O3
